US06417186B1
6b. 4-(4-{3-[4-(2,2,2-Trifluoroacetylamino)phenyl]propionyl}phenyl)piperazine-1-carboxylic Acid Tert-butyl Ester
Similarly following the procedure described in Example 5, but substituting 3-(4-amino-phenyl)-1-(4-fluorophenyl)propan-1-one with 2,2,2-trifluoro-N-{4-[3-(4-fluorophenyl)-3-oxopropyl]phenyl}acetamide, and 1-ethoxycarbonylpiperazine with 1-tert-butoxycarbonylpiperazine in Example 5a, gave the title compound as a beige colored solid (64%). The product was used in the next step without further purification.

reactant | 2,2,2-trifluoro-N-{4-[3-(4-fluorophenyl)-3-oxopropyl]phenyl}acetamide | FC(C(=O)NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)F)(F)F | C17H13F4NO2
reactant | 1-ethoxycarbonylpiperazine | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | 1-tert-butoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-(4-{3-[4-(2,2,2-Trifluoroacetylamino)phenyl]propionyl}phenyl)piperazine-1-carboxylic Acid Tert-butyl Ester | 64% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)NC(C(F)(F)F)=O)=O | C26H30F3N3O4
